US07648985B2
4-Cyano-N-{2-[7-(1-methyl-1H-indol-3-ylmethyl)-9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl]-ethyl}-benzenesulfonamide
A mixture of 4-cyano-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl)-ethyl]-benzenesulfonamide (0.101 g, 0.30 mmol) and 1-methyl-1H-indole-3-carbaldehyde (0.081 g, 0.51 mmol) in 1,2-dichloroethane (4 mL) was agitated for 1.5 hours at room temperature. Sodium triacetoxyborohydride (0.216 g, 1.02 mmol) was added and resulting mixture was agitated over night at room temperature. An aqueous solution of Na2CO3 (3 mL) was added and the aqueous layer was extracted with dichloromethane (3×4 mL). The combined organic layers were concentrated in vacuo and the crude product was purified by chromatography on silica gel using methanol saturated with ammonia in dichloromethane as eluent, which afforded 76 mg (52.8%) of the title compound.

reactant | 4-cyano-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl)-ethyl]-benzenesulfonamide | 0.30 mmol, 0.101 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCN1CC2CNCC(C1)O2 | C15H20N4O3S
reactant | 1-methyl-1H-indole-3-carbaldehyde | 0.51 mmol, 0.081 g | CN1C=C(C2=CC=CC=C12)C=O | C10H9NO
reactant | Sodium triacetoxyborohydride | 1.02 mmol, 0.216 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | 4-Cyano-N-{2-[7-(1-methyl-1H-indol-3-ylmethyl)-9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl]-ethyl}-benzenesulfonamide | 76 mg, 52.8% | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCN1CC2CN(CC(C1)O2)CC2=CN(C1=CC=CC=C21)C | C25H29N5O3S
